US04548932
A mixture of 5N hydrogen chloride-ethyl acetate solution (5 ml) and tert-butyl 3(S)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.1 g) is allowed to stand at room temperature for 3 hours. The mixture is diluted with petroleum ether (80 ml) to precipitate colorless powder, which is collected and dried in vacuo to give 3(S)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.hydrochloride (0.067 g).

reactant | hydrogen chloride-ethyl acetate | 5N, 5 ml | C(C)(=O)OCC.Cl
reactant | tert-butyl 3(S)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.1 g | C(C)OC(=O)[C@H](CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C34H43N3O8
product | 3(S)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.hydrochloride | 0.067 g | Cl.C(C)OC(=O)[C@H](CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C30H35N3O8.ClH/c1-2-40-30(39)22(31-23-19-41-25-16-10-9-15-24(25)33(29(23)38)18-26(34)35)14-6-4-3-5-11-17-32-27(36)20-12-7-8-13-21(20)28(32)37;/h7-10,12-13,15-16,22-23,31H,2-6,11,14,17-19H2,1H3,(H,34,35);1H/t22-,23-;/m0./s1
